US07220862B2
2-Benzyloxycarbonylamino-3-(3,4-dinitro-phenyl)-acrylic acid methyl ester
1,1,3,3-Tetramethylguanidine (41.2 mL, 329 mmol) was added at room temperature to a solution of N-(benzyloxycarbonyl)-alpha-phophonoglycine trimethyl ester (114.1 g, 344 mmol) in tetrahydrofuran (800 mL). The mixture was stirred at room temperature for 15 min and cooled to −78° C. A solution 3,4-dinitro-benzaldehyde (61.4 g, 313 mmol) in tetrahydrofuran (200 mL) was slowly added via cannula. The resulting mixture was stirred at −78° C. for 2 h and then allowed to warm to room temperature overnight. Solvents were removed in vacuo, and the yellow residue was dissolved in 4.5 L of ethyl acetate. The solution was washed with 1.5 L of 1N sulfuric acid, water twice, brine and dried over sodium sulfate. After filtration, solvents were removed in vacuo and the residue was crystallized from ethyl acetate (20 g crude product/100 mL of ethyl acetate). The yellow crystals were collected and further purified by chromatography on silica gel using methylene chloride as eluent. The title compound was obtained a s yellow crystals (77%). 1H-NMR (CDCl3, 500 MHz) δ 7.85 (d, J=1.5 Hz, 1H), 7.74 (d, J=8.0 Hz, 1H), 7.62 (dd, J=8.5, 1.5 Hz, 1H), 7.35–7.34 (m, 3H), 7.34 (br s, 2H), 7.23 (s, 1H), 6.95 (br s, 1H), 5.07 (s, 2H), 3.90 (s, 3H).

reactant | 1,1,3,3-Tetramethylguanidine | 329 mmol, 41.2 mL | CN(C(=N)N(C)C)C | C5H13N3
reactant | N-(benzyloxycarbonyl)-alpha-phophonoglycine trimethyl ester | 344 mmol, 114.1 g | COC(=O)C(NC(=O)OCC1=CC=CC=C1)P(=O)(OC)OC | C13H18NO7P
reactant | 3,4-dinitro-benzaldehyde | 313 mmol, 61.4 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H4N2O5
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2-Benzyloxycarbonylamino-3-(3,4-dinitro-phenyl)-acrylic acid methyl ester | COC(C(=CC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])NC(=O)OCC1=CC=CC=C1)=O | C18H15N3O8
